US09428499B2
To a solution of 2-methyl-2-(3-nitrophenyl)propanenitrile (1.5 g, 7.89 mmol) in 2-propanol was added benzyltriethyl ammonium chloride (0.054 g, 0.237 mmol) and 25% aq. KOH solution (5.0 ml). Resulting solution was stirred for 5 min. and H2O2 (2.5 ml, 30% aq. solution) was added (slow addition). Reaction mixture was heated at 75° C. for 4 hr. Solvent was evaporated under vacuum and residue was suspended in water (200 ml). Precipitate was filtered and dried to obtain 2-methyl-2-(3-nitrophenyl)propanamide (0.98 gm).

reactant | 2-methyl-2-(3-nitrophenyl)propanenitrile | 7.89 mmol, 1.5 g | CC(C#N)(C)C1=CC(=CC=C1)[N+](=O)[O-] | C10H10N2O2
reactant | KOH | 5.0 ml | [OH-].[K+]
reactant | H2O2 | 2.5 ml | OO | H2O2
solvent | 2-propanol | CC(C)O | C3H8O
catalyst | benzyltriethyl ammonium chloride | 0.237 mmol, 0.054 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 2-methyl-2-(3-nitrophenyl)propanamide | 0.98 gm | CC(C(=O)N)(C)C1=CC(=CC=C1)[N+](=O)[O-] | C10H12N2O3
